US05614633
A mixture of 1.11 g of 2,2-bisfluoromethyl-6-iodo-4-(2-pyridyl)-2H-1-benzopyran, 1.17 g of potassium pentafluoropropionate, 1.18 g of copper (I) iodide, 20 ml of N,N-dimethylformamide and 7.ml of toluene was stirred at 160° C. under nitrogen gas atmosphere with heating for 3 hours while toluene was distilled off. Ether and water were added thereto and the mixture was filtered using Celite. The mother liquor was extracted with ether. The organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 0.86 g of oily 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran represented by the following formula.

reactant | 2,2-bisfluoromethyl-6-iodo-4-(2-pyridyl)-2H-1-benzopyran | 1.11 g | FCC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)I)CF | C16H12F2INO
reactant | potassium pentafluoropropionate | 1.17 g | FC(C(C(=O)[O-])(F)F)(F)F.[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 1.18 g | [Cu]I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran | 0.86 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)C2=NC=CC=C2)C1)F | C18H12F7NO
